US04559354
A suspension of 3.26 g of 1-(2-hydroxyethyl)-2-(4-hydroxyphenyl)-4-(trifluoromethyl)-1H-imidazole and 9.26 g of anhydrous potassium carbonate in 95 ml of epichlorohydrin is heated under reflux, while stirring, for 1 hour. The mixture is subsequently cooled in an ice bath, filtered and the filtrate freed of solvent in a rotary evaporator. The oil that remains behind is chromatographed on silica gel with ethyl acetate. The main fractions are combined and are caused to crystallise by the addition of hexane, yielding 2-[4-(2,3-epoxypropoxy)-phenyl]-1-(2-hydroxyethyl)-4-(trifluoromethyl)-1H-imidazole having a melting point of 110°-112°.

reactant | 1-(2-hydroxyethyl)-2-(4-hydroxyphenyl)-4-(trifluoromethyl)-1H-imidazole | 3.26 g | OCCN1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)O | C12H11F3N2O2
reactant | potassium carbonate | 9.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 95 ml | C(Cl)C1CO1 | C3H5ClO
product | 2-[4-(2,3-epoxypropoxy)-phenyl]-1-(2-hydroxyethyl)-4-(trifluoromethyl)-1H-imidazole | O1C(COC2=CC=C(C=C2)C=2N(C=C(N2)C(F)(F)F)CCO)C1 | C15H15F3N2O3
